US06136823
Synthesis of 7-(2-Aminoethyl)amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg), ethylenediamine (16 mg) and triethylamine (70 mg) were added to acetonitrile (5 ml), and the mixture was heated under reflux for 2 hours. After the reaction mixture was allowed to cool, deposits were collected by filtration. The deposits were washed successively with ethanol and diethyl ether to obtain the title compound (72 mg) as a pale yellow powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | ethylenediamine | 16 mg | C(CN)N | C2H8N2
reactant | triethylamine | 70 mg | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 7-(2-Aminoethyl)amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 72 mg | NCCNC1=C(C=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)N)F)F)C(=O)O)=O)F | C18H14ClF3N4O3
